US09371281B2
To a solution of sodium hydroxide (0.2 g, 5 mmol) and 50% aqueous hydroxyl amine (2 mL) was added 1-(4-methoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester (0.32 g, 1.0 mmol) dissolved in THF/MeOH (4 mL, 1:1). After stirring 1 hr at room temperature, the solution was diluted with water (4 mL) and the volatile solvents were removed in vacuo. The solution was then neutralized to pH=7-8 with 1N HCl. The resulting precipitate was isolated by filtration to provide 1-(4-methoxy-phenylmethyl)-1H-indole-6-carboxylic acid hydroxyamide as a white powder (0.25 g, 84% yield). 1H NMR (400 MHz, DMSO) δ 11.13 (s, 1H), 8.93 (s, 1H), 7.97 (s, 1H), 7.64 (d, 1H, J=3.2 Hz), 7.58 (d, 1H, J=8.9 Hz), 7.45 (d, 1H, J=8.3 Hz), 7.19 (d, 2H, J=8.3 Hz), 6.87 (d, 2H, J=8.3 Hz), 6.52 (d, 1H, J=3.2 Hz), 5.38 (s, 2H), 3.70 (s, 3H).

reactant | sodium hydroxide | 5 mmol, 0.2 g | [OH-].[Na+]
reactant | hydroxyl amine | 2 mL | ON | H3NO
reactant | 1-(4-methoxy-phenylmethyl)-1H-indole-6-carboxylic acid methyl ester | 1.0 mmol, 0.32 g | COC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)OC | C18H17NO3
solvent | THF MeOH | 4 mL | C1CCOC1.CO
solvent | water | 4 mL | O | H2O
product | 1-(4-methoxy-phenylmethyl)-1H-indole-6-carboxylic acid hydroxyamide | 0.25 g, 84% yield | ONC(=O)C1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)OC | C17H16N2O3
